US05114702
Using the same procedure as described in Example 1, lanthanum nitrate hydrate, strontium nitrate, aluminum nitrate hydrate, and chromium nitrate hydrate were combined to produce lanthanum strontium aluminum chromite La1-ySryCr1-xAlxO3, where y=0.0 to 0.3 and x=0.0 to 0.3. This refractory ceramic exhibits good electrical conductivity.

reactant | lanthanum nitrate hydrate | O.[N+](=O)([O-])[O-].[La+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | strontium nitrate | [N+](=O)([O-])[O-].[Sr+2].[N+](=O)([O-])[O-]
reactant | aluminum nitrate hydrate | O.[N+](=O)([O-])[O-].[Al+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | chromium nitrate hydrate | O.[N+](=O)([O-])[O-].[Cr+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | lanthanum strontium aluminum chromite | [Cr](=O)([O-])[O-].[Al+3].[Sr+2].[La+3].[Cr](=O)([O-])[O-].[Cr](=O)([O-])[O-].[Cr](=O)([O-])[O-] | InChI=1S/Al.4Cr.La.12O.Sr/q+3;;;;;+3;;;;;8*-1;+2
